US08633173B2
(2-Methoxy-phenyl)-(8-phenyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amine was prepared from (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(2-methoxy-phenyl)-amine (50.0 mg, 0.157 mmol) and phenylboronic acid (21.0 mg, 0.172 mmol) with Pd(dppf)Cl2 (0.012 g) as the catalyst in a manner analogous to Step 2c and was isolated as a white solid (0.012 g, 24%). MP=155-157° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.44 (dd, J=6.6, 0.9 Hz, 1H), 8.40 (dd, J=8.0, 1.4 Hz, 1H), 8.02-7.97 (m, 2H), 7.61 (s, 1H), 7.56 (dd, J=7.4, 0.9 Hz, 1H), 7.55-7.50 (m, 2H), 7.45-7.40 (m, 1H), 7.07-7.02 (m, 1H), 6.98-6.88 (m, 3H), 3.91 (s, 3H). MS=317 (MH)+.

reactant | (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(2-methoxy-phenyl)-amine | 0.157 mmol, 50.0 mg | BrC=1C=2N(C=CC1)N=C(N2)NC2=C(C=CC=C2)OC | C13H11BrN4O
reactant | phenylboronic acid | 0.172 mmol, 21.0 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | Pd(dppf)Cl2 | 0.012 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2-Methoxy-phenyl)-(8-phenyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amine | COC1=C(C=CC=C1)NC1=NN2C(C(=CC=C2)C2=CC=CC=C2)=N1 | C19H16N4O
